US06083482
Preparation of 3'-(t-butyldimethylsilyl)thymidine 5'-O-(2-cyanoethyl-N,N-diisopropylphosphoramidite)
To a solution of 3'-(t-butyldimethylsilyl)thymidine (1.10 g, 3.09 mmol) and diisopropylehtylamine (1.40 mL, 6.18 mmol) in anhydrous methylene chloride at 0° C. under argon was added dropwise 2-cyanoethyl-N,N-diisopropylchlorophosphoramidite (2.15 mL, 12.36 mmol). The resulting solution was stirred at room temperature for 30 min, diluted at 0° C. with ethyl acetate, washed with cold 5% sodium bicarbonate twice, dried over sodium sulfate, and concentrated to dryness at 25° C. Chromatography on silica gel with triethylamine-ethyl acetate-hexanes (5:40:55) gave 1.25 g of the titled compound as a colorless foam, which contained two diastereomers (ratio ~1:1).

reactant | 3'-(t-butyldimethylsilyl)thymidine | 3.09 mmol, 1.10 g | [Si](C)(C)(C(C)(C)C)[C@@]1(C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C(C)=C1)O | C16H28N2O5Si
reactant | diisopropylehtylamine | 6.18 mmol, 1.40 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-cyanoethyl-N,N-diisopropylchlorophosphoramidite | 12.36 mmol, 2.15 mL | C(#N)CCOP(N(C(C)C)C(C)C)Cl | C9H18ClN2OP
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3'-(t-butyldimethylsilyl)thymidine 5'-O-(2-cyanoethyl-N,N-diisopropylphosphoramidite) | 1.25 g | C(#N)CCP(O)(N(C(C)C)C(C)C)OC[C@@H]1[C@](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)(O)[Si](C)(C)C(C)(C)C | C25H47N4O6PSi
